US07189750B2
Preparation of hexadecanoic acid [4-methyl-5-(2-nitrooxy-ethyl)-thiazol-2-yl]-amide (Pet-158)
Pet-158 was prepared according to the general procedure described hereinabove and the procedure described above for the preparation of Pet-154, using hexadecanoic acid (palmitic acid) and 4-methyl-5-(2-nitrooxy-ethyl)-thiazol-2-ylamine (Pet-10) as the starting materials, in an overall yield of 62%.

reactant | hexadecanoic acid | C(CCCCCCCCCCCCCCC)(=O)O | C16H32O2
reactant | 4-methyl-5-(2-nitrooxy-ethyl)-thiazol-2-ylamine | CC=1N=C(SC1CCO[N+](=O)[O-])N | C6H9N3O3S
product | hexadecanoic acid [4-methyl-5-(2-nitrooxy-ethyl)-thiazol-2-yl]-amide | yield of 62% | CC=1N=C(SC1CCO[N+](=O)[O-])NC(CCCCCCCCCCCCCCC)=O | C22H39N3O4S
